US06548499B1
2,3-Dibromo-6,7-dichloro-quinoxaline (2.75 g, 7.7 mmol) was dissolved in DMF (50 mL). Anhydrous ammonia was bubbled into the solution. After 2 hours, DMF was removed in vacuo at 70° C. The residue was filtered through a pad of silica gel (one inch thick) eluted with ethyl acetate. After removal of the solvent in vacuo, the residue was recrystallized from acetone to give the desired 2-bromo-3-amino-6,7-dichloroquinoxaline as a white solid. (7.84 g, 89% yield): mp 232-4° C.; Rf=0.41, EtOAc:Hex (1:1); IR (KBr, cm−1) 3488, 3348, 1617, 1588, 1443, 1406, 1338, 1114, 1036, 965, 893, 867, 577, 557; 1H NMR (DMSO) δ 8.02 (s, 1H), 7.76 (s, 1H), 7.51 (broad s, 2H, NH2), 7.18 (s, 2H); 13C NMR (DMSO) δ 147.7, 136.7, 131.4, 129.0, 128.8, 124.4, 122.3, 121.9; MS (ACPI), m/z 291.8 (M−1)−; Anal. Calcd for C8H4N3BrCl2: C, 32.80; H, 1.38; N, 14.34. Found: C, 32.98; H, 1.43; N, 14.34.

reactant | 2,3-Dibromo-6,7-dichloro-quinoxaline | 7.7 mmol, 2.75 g | BrC1=NC2=CC(=C(C=C2N=C1Br)Cl)Cl | C8H2Br2Cl2N2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-bromo-3-amino-6,7-dichloroquinoxaline | 89% yield | BrC1=NC2=CC(=C(C=C2N=C1N)Cl)Cl | C8H4BrCl2N3
